US04175139
3,7,11,15,19,23,27,31,35-Nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaenyl propionate
6.3 Grams of solanesol and 1.6 g. of propionic acid anhydride were dissolved in pyridine and the solution was stirred at 80° C. for 5 hours. After completion of the reaction, the reaction product was poured in water to hydrolyze excessive propionic acid anhydride. After extraction with n-hexane, the extract was washed with water and n-hexane layer was subjected to distillation under reduced pressure. The residual oily substance was purified by column chromatography with 50 g. of silica gel to obtain the final product as white solid (m.p. 33°-35° C.). Yield 6.5 g. (93.4%).______________________________________Elementary analysis as C48H78O2 : C H______________________________________Theoretical (%): 83.96 11.37Found (%): 83.91 11.40______________________________________

reactant | solanesol | CC(=CCC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CC/C(=C/CO)/C)/C)/C)/C)/C)/C)/C)/C)C | C45H74O
reactant | propionic acid anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3,7,11,15,19,23,27,31,35-Nonamethyl-2,6,10,14,18,22,26,30,34-hexatriacontanonaenyl propionate | C(CC)(=O)OCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(CCC=C(C)C)C)C)C)C)C)C)C)C | C48H78O2
